US05643878
b: H-(L)-Tyr-morpholin-4-ylamide
A solution of 2.05 g (5.3 mmol) of Z-(L)-Tyr-morpholin-4-ylamide in 91 ml of methanol is hydrogenated for 1.5 h at RT in the presence of 0.5 g of 10% Pd/C. Filtration through ®Celite (filter aid of diatomaceous earth, John-Manville Corp.) and concentration of the filtrate by evaporation yields the title compound: TLC Rf (R)=0.34.

reactant | Z-(L)-Tyr morpholin-4-ylamide | 5.3 mmol, 2.05 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1.N1(CCOCC1)[NH-]
solvent | methanol | 91 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | H-(L)-Tyr morpholin-4-ylamide | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O.N1(CCOCC1)[NH-] | InChI=1S/C9H11NO3.C4H9N2O/c10-8(9(12)13)5-6-1-3-7(11)4-2-6;5-6-1-3-7-4-2-6/h1-4,8,11H,5,10H2,(H,12,13);5H,1-4H2/q;-1/t8-;/m0./s1
